2172-05-14 07:56:00 Physician Resident Progress Note
Chief Complaint: 49M PMH ETOH abuse, admitted with syncope and delirium
   24 Hour Events:
 URINE CULTURE - At [**2172-5-13**] 01:05 PM
   - CXR negative
   - midline ordered but not done, [**Doctor First Name **]. am
   - required 155mg diazepam from 7am-7pm shift, started taking PO
   diazepam on night shift, 125 IV on night shift
   - urine tox and u/a negative
   - repeat head ct not done given to agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2172-5-14**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-14**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 125 (63 - 125) bpm
   BP: 153/21(58) {119/21(58) - 169/105(151)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 100%
   Height: 66 Inch
             Total In:
                                                                  3,012 mL
                                                                    685 mL
   PO:
             270 mL
   TF:
   IVF:
                                                                  3,012 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    300 mL
   Urine:
                                                                  1,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,462 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   11.9 g/dL
   88 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   4 mg/dL
   105 mEq/L
   139 mEq/L
   34.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
   WBC
   8.2
   6.6
   Hct
   36.4
   34.4
   Plt
   212
   179
   Cr
   0.7
   0.6
   Glucose
   87
   88
   Other labs: PT / PTT / INR:11.8/25.2/1.0, ALT / AST:64/122, Alk Phos /
   T Bili:74/1.7, Amylase / Lipase:37/24, Albumin:3.9 g/dL, LDH:329 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: Negative for PNA
   EEG: normal
   UA: negative
   Microbiology: Urine: NGTD
   No blood cultures
   Assessment and Plan
   49M with PMH ETOH abuse admitted with a syncopal episode
   # Delirium: Likely ETOH withdrawl, diazepam requirements unchanged.
   Unable to do head CT as he is agitated.  Infectious w/u unrevealing
   with negative CXR and nothing growing on urine cultures.
   -Repeat Head CT when able to tolerate
   -CIWA  with standing and prn diazapam 10mg po q2H with 10-15 IV q30min
   -blood cultures if he spikes
   -FOllow up urine
   # Elevated LFTs: likely secondary to ETOH abuse\
   -continue to trend
   # Syncope: work up negative thus far with echo, carotid dopplers, Head
   CT, and EEG
   -Possible dehydration
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Comments: Not needed
   Lines:
   20 Gauge - [**2172-5-13**] 11:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-05-14 10:29:00 Physician Attending Progress Note
Chief Complaint: delirium, agitation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   syncopal episode, low suspicion for infection given presenting exam,
   labs (nl wbc) and lack of temp.
   24 Hour Events:
 URINE CULTURE - At [**2172-5-13**] 01:05 PM
   repeat u/s tox
 neg
   too agitated
 unable to obtain repeat head ct
   cxr without focal abnl
   History obtained from ho
   Patient unable to provide history: delirius
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2172-5-14**] 08:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-14**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 90 (63 - 125) bpm
   BP: 143/76(91) {119/21(58) - 169/90(151)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 100%
   Height: 66 Inch
             Total In:
                                                                  3,012 mL
                                                                    685 mL
   PO:
             270 mL
   TF:
   IVF:
                                                                  3,012 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    300 mL
   Urine:
                                                                  1,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,462 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, less agitated
   Eyes / Conjunctiva: PERRL, pinpt
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic:follows simple commands, slurred speech Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: normal
   Labs / Radiology
   11.9 g/dL
   179 K/uL
   88 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   4 mg/dL
   105 mEq/L
   139 mEq/L
   34.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
   WBC
   8.2
   6.6
   Hct
   36.4
   34.4
   Plt
   212
   179
   Cr
   0.7
   0.6
   Glucose
   87
   88
   Other labs: PT / PTT / INR:11.8/25.2/1.0, ALT / AST:64/122 (54), Alk
   Phos / T Bili:74/1.7 (1.3), Amylase / Lipase:37/24, Albumin:3.9 g/dL,
   LDH:329 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: cxr--no infiltrate
   Microbiology: u/a neg
   [**5-13**]-u cx ngtd
   Assessment and Plan
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural  hematoma in ddx given
   syncopal episode, low suspicion for infection given presenting exam,
   labs (nl wbc) and lack of temp.
   Requiring high doses of valium
 less agitated today
   #  Delirium
suspect etoh withdrawal
   -mvi, thiamine, folate
   requiring large amts vlium
while more alert / coop than yest am, now
   with slurring speech, ? med effect contributing to derlium
       change scheduled valium to 10 mg  Q 4
 consider increasing interval
   to Q 6
        prn valium per ciwa q 2 hr
   add haldol prn
   Obtain repeat head ct  to r/o subdural (low suspicion, but recent
   syncope)
   Infection w/u unrevealing, remains afeb with nl wbc
   #syncope
   w/u thus far has been unremarkable, final eeg read
   # transaminitis
trend lfts, coags, plt wnl
   Ruq u/s
   Hep serologies
   # anemia
stable h/h, anemia w/u
   ICU Care
   Nutrition:
   Comments: progress diet with supervision, asp risks
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-5-13**] 11:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2172-05-15 12:11:00 Physician Attending Progress Note
Chief Complaint: delirium,agitation, etoh withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   syncopal episode, low suspicion for infection given presenting exam,
   labs (nl wbc) and lack of temp.
   24 Hour Events:
   agitated--> haldol X 2
   sedated--> then unable to take his valium so fell behind on ciwa
   ruq u/s
ev of rior granulam ds, fatty infil liver, no bil dil
   Patient unable to provide history: agiated, delirius
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2172-5-14**] 12:00 PM
   Pantoprazole (Protonix) - [**2172-5-15**] 09:43 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-15**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 74 (62 - 99) bpm
   BP: 127/66(80) {113/62(67) - 165/82(95)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 97% (ra, nc)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    745 mL
                                                                     10 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                    415 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                     10 mL
   Respiratory support
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, mild resolving phlebitis at old IV site R UE
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): confused, oriented only  to self, Movement: Not
   assessed, Tone: normal
   Labs / Radiology
   11.9 g/dL
   179 K/uL
   88 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   4 mg/dL
   105 mEq/L
   139 mEq/L
   34.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
   WBC
   8.2
   6.6
   Hct
   36.4
   34.4
   Plt
   212
   179
   Cr
   0.7
   0.6
   Glucose
   87
   88
   Other labs: PT / PTT / INR:11.8/25.2/1.0, ALT / AST:64/122, Alk Phos /
   T Bili:74/1.7, Amylase / Lipase:37/24, Albumin:3.9 g/dL, LDH:329 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: ruq us--fatty liver, no bil dil
   prior gran infection
   Microbiology: urine [**5-13**]--neg
   Assessment and Plan
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   recent syncopal episode, low suspicion for infection given presenting
   exam,  labs (nl wbc) and lack of temp.
   #  Delirium
suspect etoh withdrawal, still with intermittent agitation
   and slow to clear
   Toxis metabolic, inf w/u unrevealing ( if not yet sent check tsh, b12,
   rpr)
   -- mvi, thiamine, folate
   --  scheduled valium 10 mg  Q 4 consider increasing interval to Q 6 (IV
   if not able to take PO)
        + prn valium per ciwa q 2 hr
   -  prn haldol
   -  Obtain repeat head ct  to r/o subdural (low suspicion, but recent
   syncope), when able to tolerate a road trip
   # syncope
   w/u thus far has been unremarkable
   # transaminitis
suspect [**1-25**] etoh
   coags, plt wnl
   Ruq us with fatty infiltrate, no bil dil,
   hep serologies
   ICU Care
   Nutrition:
   Comments: po diet (holding for sedation, asp risk), poor PO intake
   bolus then would resume maintenance ivf
   Glycemic Control:  not indicated
   Lines:
   20 Gauge - [**2172-5-13**] 11:55 AM
midline c/s
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:   asp risk, hob elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2172-05-16 07:35:00 Physician Resident Progress Note
Chief Complaint: etoh withdrawal
   24 Hour Events:
   -Bolused 1L NS for low UOP
   -Diazapam switched from IV standing to po prn, as the patient was alert
   and pleasant for most of the day
   -D/c'ed midline request
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-5-15**] 09:43 AM
   Heparin Sodium (Prophylaxis) - [**2172-5-16**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 71 (70 - 95) bpm
   BP: 140/73(87) {114/55(71) - 154/82(94)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,577 mL
                                                                  1,640 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,737 mL
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,977 mL
                                                                  1,640 mL
   Respiratory support
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x1,
   Movement: Not assessed, Tone: Normal, not follwing commands
   Labs / Radiology
   223 K/uL
   11.6 g/dL
   148 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.1 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   32.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
                             [**2172-5-16**]  03:35 AM
   WBC
   8.2
   6.6
   6.2
   Hct
   36.4
   34.4
   32.3
   Plt
   [**Telephone/Fax (3) 2895**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   87
   88
   148
   Other labs: PT / PTT / INR:12.1/27.4/1.0, ALT / AST:45/48, Alk Phos / T
   Bili:65/0.7, Amylase / Lipase:37/24, Albumin:3.2 g/dL, LDH:329 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   recent syncopal episode, low suspicion for infection given presenting
   exam,  labs (nl wbc) and lack of temp.
   #  Delirium
suspect etoh withdrawal, still with intermittent agitation
   and slow to clear
   Toxis metabolic, inf w/u unrevealing, check tsh, b12 negative, rpr
   pending
   -- mvi, thiamine, folate
   - received 20 IV diazepam, will switch to oral prn today for CIWA>10
   -  Obtain repeat head ct  to r/o subdural (low suspicion, but recent
   syncope), TODAY
   .
   # syncope
   w/u thus far has been unremarkable
   .
   # transaminitis
suspect [**1-25**] etoh
   coags, plt wnl
   Ruq us with fatty infiltrate, no bil dil,
   hep serologies
   .
   # UOP
   - change foley
   - bladder scan
   - IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-5-16**] 04:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor

2172-05-16 07:52:00 Physician Attending Progress Note
Chief Complaint: delirium,agitation, etoh withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium.
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   syncopal episode, low suspicion for infection given presenting exam,
   labs (nl wbc) and lack of temp
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-5-15**] 09:43 AM
   Heparin Sodium (Prophylaxis) - [**2172-5-16**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-16**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 71 (70 - 95) bpm
   BP: 140/73(87) {114/55(71) - 154/82(94)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,577 mL
                                                                  1,640 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,737 mL
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,977 mL
                                                                  1,640 mL
   Respiratory support
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   223 K/uL
   148 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.1 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   32.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
                             [**2172-5-16**]  03:35 AM
   WBC
   8.2
   6.6
   6.2
   Hct
   36.4
   34.4
   32.3
   Plt
   [**Telephone/Fax (3) 2895**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   87
   88
   148
   Other labs: PT / PTT / INR:12.1/27.4/1.0, ALT / AST:45/48, Alk Phos / T
   Bili:65/0.7, Amylase / Lipase:37/24, Albumin:3.2 g/dL, LDH:329 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
    49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   recent syncopal episode, low suspicion for infection given presenting
   exam,  labs (nl wbc) and lack of temp.
   #  Delirium
suspect etoh withdrawal, still with intermittent agitation
   and slow to clear
   Toxis metabolic, inf w/u unrevealing ( if not yet sent check tsh, b12,
   rpr)
   -- mvi, thiamine, folate
   --  scheduled valium 10 mg  Q 4 consider increasing interval to Q 6 (IV
   if not able to take PO)
        + prn valium per ciwa q 2 hr
   -  prn haldol
   -  Obtain repeat head ct  to r/o subdural (low suspicion, but recent
   syncope), when able to tolerate a road trip
   # syncope
   w/u thus far has been unremarkable
   # transaminitis
suspect [**1-25**] etoh
   coags, plt wnl
   Ruq us with fatty infiltrate, no bil dil,
   hep serologies
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-5-16**] 04:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2172-05-17 07:28:00 Physician Resident Progress Note
Chief Complaint: etoh withdrawal
   24 Hour Events:
   nothing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-5-16**] 10:00 PM
   Diazepam (Valium) - [**2172-5-16**] 11:08 PM
   Haloperidol (Haldol) - [**2172-5-16**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-17**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 69 (51 - 88) bpm
   BP: 124/74(86) {103/57(69) - 157/99(110)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,521 mL
                                                                    554 mL
   PO:
                                                                    690 mL
             TF:
   IVF:
                                                                  2,831 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    600 mL
   Urine:
                                                                  2,650 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    871 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   10.7 g/dL
   801 mg/dL
   0.5 mg/dL
   21 mEq/L
   2.8 mEq/L
   4 mg/dL
   101 mEq/L
   131 mEq/L
   31.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
                             [**2172-5-16**]  03:35 AM
                             [**2172-5-17**]  04:31 AM
   WBC
   8.2
   6.6
   6.2
   5.8
   Hct
   36.4
   34.4
   32.3
   31.3
   Plt
   [**Telephone/Fax (3) 2903**]15
   Cr
   0.7
   0.6
   0.6
   0.5
   Glucose
   87
   88
   148
   801
   Other labs: PT / PTT / INR:12.6/28.5/1.1, ALT / AST:35/40, Alk Phos / T
   Bili:49/0.5, Amylase / Lipase:37/24, Albumin:2.8 g/dL, LDH:162 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium
   .
   #  Delirium
suspect etoh withdrawal, still with intermittent agitation
   and slow to clear
   Toxis metabolic, inf w/u unrevealing, check tsh, b12 negative, rpr
   pending
   - mvi, thiamine, folate
   - oral prn today for CIWA>10
   - Obtain repeat head ct  to r/o subdural (low suspicion, but recent
   syncope), TODAY
   .
   # syncope
   thorough w/u thus far has been unremarkable
   .
   # transaminitis
suspect [**1-25**] etoh
   coags, plt wnl
   Ruq us with fatty infiltrate, no bil dil,
   hep serologies
   .
   # UOP
   - change foley
   - IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-5-16**] 04:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-05-17 07:47:00 Physician Attending Progress Note
Chief Complaint: delirium,agitation, etoh withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium.
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   syncopal episode, low suspicion for infection given presenting exam,
   labs (nl wbc) and lack of temp
   24 Hour Events:
   Intermittently agitated. On Ciwa scale with prn valium and haldol if
   needed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-5-16**] 10:00 PM
   Diazepam (Valium) - [**2172-5-16**] 11:08 PM
   Haloperidol (Haldol) - [**2172-5-16**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-17**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 69 (51 - 88) bpm
   BP: 124/74(86) {103/57(69) - 157/99(110)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,521 mL
                                                                    583 mL
   PO:
                                                                    690 mL
             TF:
   IVF:
                                                                  2,831 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    600 mL
   Urine:
                                                                  2,650 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    871 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   AAO x 2, easy to reorient
   CVS: S1S2
   RS: CTA
   PA: soft. BS
   Extr: trace edema
   Labs / Radiology
   10.7 g/dL
   215 K/uL
   801 mg/dL
   0.5 mg/dL
   21 mEq/L
   2.8 mEq/L
   4 mg/dL
   101 mEq/L
   131 mEq/L
   31.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2172-5-13**]  05:52 AM
                             [**2172-5-14**]  04:24 AM
                             [**2172-5-16**]  03:35 AM
                             [**2172-5-17**]  04:31 AM
   WBC
   8.2
   6.6
   6.2
   5.8
   Hct
   36.4
   34.4
   32.3
   31.3
   Plt
   [**Telephone/Fax (3) 2903**]15
   Cr
   0.7
   0.6
   0.6
   0.5
   Glucose
   87
   88
   148
   801
   Other labs: PT / PTT / INR:12.6/28.5/1.1, ALT / AST:35/40, Alk Phos / T
   Bili:49/0.5, Amylase / Lipase:37/24, Albumin:2.8 g/dL, LDH:162 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   BGT 120
   Chemistry drawn off iv line
   Assessment and Plan
     49 yo M with etoh, admitted [**5-10**] after syncopal episode with
   unrevealing w/u to date, transferred to ICU with AMS, agitation,
   delirium.
   Suspected etoh withdrawal, though sub-dural hematoma in ddx given
   recent syncopal episode, low suspicion for infection given presenting
   exam,  labs (nl wbc) and lack of temp.
    #  Delirium
suspect etoh withdrawal, still with intermittent agitation
   and slow to clear, but much improved since admission. CT head neg. EEG
   neg. Toxis metabolic, inf w/u unrevealing. TSH, B12 wnl. RPR pend.
   -- mvi, thiamine, folate
   -- continue valium per ciwa scale, with additional haldol if needed
   # transaminitis
suspect [**1-25**] etoh
   coags, plt wnl
   Ruq us with fatty infiltrate, no bil dil
   LFTs improved now.
   # electrolyte abnormalities;
   Blood drawn off iv line, repeat labs
   ICU Care
   Nutrition: taking po well
   Glycemic Control:  good, stop D5 drip
   Lines:
   20 Gauge - [**2172-5-16**] 04:03 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Patient transferred to floor stable. Significant improvement since
   admission. Agree with plan as discussed with Dr [**Last Name (STitle) 2730**]